US06150352
Step 1E 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-pyridin-4-yl-ureido)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester
To a solution of 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester (200 mg in 5 mL dry methylene chloride) at 0° C. was added phosgene (0.3 mL of a 1.93 M solution in toluene) followed by 0.111 mL of triethylamine and the mixture stirred for 1 hour at 0° C. At this time, 188 mg of 4-aminopyridine was added and the mixture allowed to warm to room temperature. After 20 hours, the mixture was diluted with ethyl acetate (200 mL) and the reaction quenched by the addition of 10% citric acid. The organic portion was concentrated in vacuo to provide the crude title compound.

reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 5 mL, 200 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C32H34ClN3O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.111 mL | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridine | 188 mg | NC1=CC=NC=C1 | C5H6N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-pyridin-4-yl-ureido)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1=CC=NC=C1)Cl)=O)C1=CC(=CC(=C1)C)C | C38H38ClN5O5
